US05225576
4-bromo-2,2,4,5,5-pentafluoro-1,3-dioxolane (6)
Into a multineck glass reactor equipped with: magnetic entrainment mechanical stirrer, reflux cooler, thermocouple, inner plunging pipes for introducing the reagents, and maintained at a temperature of -70° C., there were simultaneously fed--after having introduced 75 ml of dichlorodifluoromethane--0.75 l of bis(fluoroxy)difluoromethane at a flowrate of 0.375 l/h diluted with N2 (0.5 l/h) and bromotrifluoroethylene (5.4 g/h) for 2 hours.

reactant | dichlorodifluoromethane | 75 ml | ClC(F)(F)Cl | CCl2F2
reactant | bis(fluoroxy)difluoromethane | FOC(F)(F)OF | CF4O2
reactant | bromotrifluoroethylene | BrC(=C(F)F)F | C2BrF3
solvent | N2 | N#N | N2
product | 4-bromo-2,2,4,5,5-pentafluoro-1,3-dioxolane | BrC1(OC(OC1(F)F)(F)F)F | C3BrF5O2
